US07214681B2
NaOEt (0.63 mL of a 0.5M solution in EtOH, 0.32 mmol) was added dropwise to a stirred solution of ethyl (4-[1,2,3]triazol-1-ylphenyl)acetate (730 mg, 3.16 mmol) and tetrahydropyran-4-carboxaldehyde (396 mg, 3.47 mmol) in anhydrous DMSO (3 mL). The mixture was heated at 80° C. for 16 h, before being treated with AcOH to adjust the pH to 7. EtOAc (30 mL) was added, then the solution was washed with H2O (2×10 mL) and brine (10 mL), before being dried (MgSO4). Filtration, solvent evaporation, and column chromatography (IH-EtOAc, 1:1) yielded ethyl 3-(tetrahydropyran-4-yl)-2-(4-[1,2,3]triazol-1-ylphenyl)acrylate: m/z (ES+)=328.2 [M+H]+. This ester (404 mg, 1.23 mmol) was saponified as described above in Preparation 25 to give the title compound: m/z (ES+)=300.2 [M+H]+.

reactant | NaOEt | CC[O-].[Na+]
reactant | ethyl (4-[1,2,3]triazol-1-ylphenyl)acetate | 3.16 mmol, 730 mg | N1(N=NC=C1)C1=CC=C(C=C1)CC(=O)OCC | C12H13N3O2
reactant | tetrahydropyran-4-carboxaldehyde | 3.47 mmol, 396 mg | O1CCC(CC1)C=O | C6H10O2
reactant | AcOH | CC(=O)O | C2H4O2
solvent | EtOH | CCO | C2H6O
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | ethyl 3-(tetrahydropyran-4-yl)-2-(4-[1,2,3]triazol-1-ylphenyl)acrylate | O1CCC(CC1)C=C(C(=O)OCC)C1=CC=C(C=C1)N1N=NC=C1 | C18H21N3O3
